US09163042B2
A solution of 2-methoxypyridin-4-amine (186.2 mg, 1.5 mmol), 4,5-dichloro-2-fluoro-benzoic acid (285.1 mg, 1.36 mmol), HATU (622.4 mg, 1.64 mmol) and N-methylmorpholine (299.9 μL, 2.73 mmol) in DMF (3 mL) was stirred at room temperature for 16 hours. The reaction mixture was poured into water and extracted with ethyl acetate (3×). The organics were combined, washed with water (3×), brine and dried over Na2SO4, filtered through a short plug of silica and evaporated to dryness. The material was taken up in HBr (in acetic acid) (6.689 mL of 33% w/v, 27.28 mmol) and stirred at 95° C. for 16 h. The solution was cooled to room temperature, filtered and solid product washed with water (2×) and then ether (2×) and dried under vacuum to give 4,5-dichloro-2-fluoro-N-(2-oxo-1H-pyridin-4-yl)benzamide (250 mg, 61%) as an off white solid. ESI-MS m/z calc. 299.99, found 301.3 (M+1)+; Retention time: 1.16 minutes (3 minutes run).

reactant | 2-methoxypyridin-4-amine | 1.5 mmol, 186.2 mg | COC1=NC=CC(=C1)N | C6H8N2O
reactant | 4,5-dichloro-2-fluoro-benzoic acid | 1.36 mmol, 285.1 mg | ClC1=CC(=C(C(=O)O)C=C1Cl)F | C7H3Cl2FO2
reactant | HATU | 1.64 mmol, 622.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methylmorpholine | 2.73 mmol, 299.9 μL | CN1CCOCC1 | C5H11NO
reactant | HBr | 27.28 mmol, 6.689 mL | Br | BrH
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4,5-dichloro-2-fluoro-N-(2-oxo-1H-pyridin-4-yl)benzamide | 250 mg, 61% | ClC1=CC(=C(C(=O)NC2=CC(NC=C2)=O)C=C1Cl)F | C12H7Cl2FN2O2
